US06903126B2
6-[[1-(4-Methylphenyl)-2-phenyloxy-1H-benzimidazol-6-yl]oxy]hexanoic acid
150 mg of 6-[[2-chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 2 ml of dimethylformamide, mixed with 54 mg of potassium carbonate and 37 mg of phenol, and the mixture was stirred for 7 days at 150° C. After cooling, it was mixed with saturated ammonium chloride solution, diluted with water, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 78 mg was obtained.

reactant | 6-[[2-chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 150 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)Cl)C2=CC=C(C=C2)C)C1)=O | C21H23ClN2O3
reactant | potassium carbonate | 54 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 37 mg | C1(=CC=CC=C1)O | C6H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[[1-(4-Methylphenyl)-2-phenyloxy-1H-benzimidazol-6-yl]oxy]hexanoic acid | CC1=CC=C(C=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)O)OC2=CC=CC=C2 | C26H26N2O4
